* Common-cathode triode amplifier with 12AX7
* Circuit and drive level follow the demo from Dempwolf & Zolzer (DAFx-11)

* Supply voltage
VCC vp  0 DC 250
V1  vi  0 SIN(0 4 500)

* Input coupling capacitor
Cin vi vg 0.02u

* Grid leak resistor
Rg vg 0 1Meg

* Cathode resistor (self-bias) with bypass cap
Rk vk 0 1.5k
Ck vk 0 25u

* Plate resistor
Rp vp vpl 100k

* Triode
X1 vpl vg vk 12AX7_DEMPWOLF ; P G C

* Output coupling capacitor
Cout vpl vo 0.02u
RL vo 0 1Meg

* 12AX7 model (Dempwolf & Zolzer physically-motivated triode model, DAFx-11)
* Ik = Gk * (Hk)^gamma,          Hk = log(1+exp(Ck*(Va/mu + Vg))) / Ck
* Ig = Gg * (Hg)^xi + Ig0,       Hg = log(1+exp(Cg*Vg)) / Cg
* Ia = Ik - Ig
* Parameters below are the "RSD-1" 12AX7 fit from Table 1 of the paper.
* The same parameters are used in the inline .SUBCKT (see below) used by LTSpice.
.model 12AX7_DEMPWOLF TRIODE(GK=2.242e-3 MU=103.2 GAMMA=1.26 CK=3.40 GG=6.177e-4 XI=1.314 CG=9.901 IG0=8.025e-8)

.SUBCKT 12AX7_DEMPWOLF 1 2 3 ; P G C
+ PARAMS: GK=2.242e-3 MU=103.2 GAMMA=1.26 CK=3.40
+ GG=6.177e-4 XI=1.314 CG=9.901 IG0=8.025e-8
+ CGK=2.3p CPG=2.4p CPK=0.9p
Ehk 4 0 VALUE={log(1+exp(CK*(V(1,3)/MU+V(2,3))))/CK}
Ehg 5 0 VALUE={log(1+exp(CG*V(2,3)))/CG}
Rhk 4 0 1G
Rhg 5 0 1G
Gp  1 3 VALUE={GK*pwr(V(4),GAMMA) - (GG*pwr(V(5),XI)+IG0)}
Ggr 2 3 VALUE={GG*pwr(V(5),XI)+IG0}
Rleak 1 3 1G
Cgk 2 3 {CGK}
Cpg 1 2 {CPG}
Cpk 1 3 {CPK}
.ENDS 12AX7_DEMPWOLF

Escale1 vi_scaled 0 value = {V(vi)*0.2} ; netlist_skip
Escale2 vo_scaled 0 value = {V(vo)*0.004} ; netlist_skip

.tran 0 20m 0 1.0u
.wav "vin.wav" 32 48k V(vi_scaled)
.wav "vout.wav" 32 48k V(vo_scaled)
.options plotwinsize=0
.backanno
.end
